US06509334B1
6-(3-Chlorophenyl)-spiro[4H-3,1-benzoxazine-4,1′-cyclohexane]-2-(1H)-one
Prepared according to Procedure A from 6-bromo-spiro[4H-3,1-benzoxazine-4,1′-cyclohexane]-2(1H)-one and 3-chlorophenyl boronic acid. Off-white solid: mp 165-168° C. 1H-NMR (DMSO-d6) δ10.25 (s, 1H), 7.74 (t, 1H, J=1.9 Hz), 7.50-7.67 (m, 3H), 7.42-7.49 (m, 1H), 7.35-7.38 (m 1H), 6.93-6.95 (d, 1H, J=4.2 Hz), 1.91-1.98 (m, 4H), 1.64-1.76 (m, 3H), 1.60 (m, 2H), 1.29-1.39 (m, 1H); MS (APCI) m/z 328 ([M+H]+, 80%)

reactant | 6-bromo-spiro[4H-3,1-benzoxazine-4,1′-cyclohexane]-2(1H)-one | BrC=1C=CC2=C(C1)C1(CCCCC1)OC(N2)=O | C13H14BrNO2
reactant | 3-chlorophenyl boronic acid | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
product | 6-(3-Chlorophenyl)-spiro[4H-3,1-benzoxazine-4,1′-cyclohexane]-2-(1H)-one | ClC=1C=C(C=CC1)C=1C=CC2=C(C1)C1(CCCCC1)OC(N2)=O | C19H18ClNO2
